US07091357B2
A solution of 6-cyclohexylidene-hexan-1-ol (1.05 g, 5.77 mmol) in MEOH (40 mL) was hydrogenated with Pd—C (0.23 g, 10% w/w) in a Parr apparatus at 50 psi of H2 overnight. The catalyst was removed by filtration, and the filtrate was evaporated under reduced pressure to give 6-cyclohexyl-hexan-1-ol (1.02 g, 96%) as a colorless oil: 1H NMR (300 MHz, CDCl3) δ 3.63 (2H, t, J=6.6 Hz), 1.46–1.80 (7H, m), 1.04–1.44 (12H, m), 0.86 (2H, m); 13C NMR (75 MHz, CDCl3) δ 63.33, 37.92, 37.74, 33.72, 33.08, 30.04, 27.10, 27.04, 26.73, 26.05.

reactant | 6-cyclohexylidene-hexan-1-ol | 5.77 mmol, 1.05 g | C1(CCCCC1)=CCCCCCO | C12H22O
catalyst | Pd—C | 0.23 g | [Pd] | Pd
product | 6-cyclohexyl-hexan-1-ol | 1.02 g, 96% | C1(CCCCC1)CCCCCCO | C12H24O
